US08629160B2
2-Chloro-1-phenylethanone (35.4 mg, 0.23 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-7-yl)-2-(phenylamino)acetate (C27) (90 mg, 0.23 mmol) in EtOAc (3 ml). The reaction was stirred at room temperature overnight. The solvent was removed under vacuum and the crude was triturated with Et2O. The compound was purified by preparative HPLC (Eluent: CH3CN/H2O) to obtain (3R)-3-(2-(benzo[b]thiophen-7-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (26.6 mg, 21.2% yield).

reactant | 2-Chloro-1-phenylethanone | 0.23 mmol, 35.4 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-7-yl)-2-(phenylamino)acetate | 0.23 mmol, 90 mg | S1C2=C(C=C1)C=CC=C2C(C(=O)O[C@H]2CN1CCC2CC1)NC1=CC=CC=C1 | C23H24N2O2S
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(benzo[b]thiophen-7-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 26.6 mg, 21.2% yield | [Cl-].S1C2=C(C=C1)C=CC=C2C(C(=O)O[C@H]2C[N+]1(CCC2CC1)CC(C1=CC=CC=C1)=O)NC1=CC=CC=C1 | InChI=1S/C31H31N2O3S.ClH/c34-27(22-8-3-1-4-9-22)20-33-17-14-23(15-18-33)28(21-33)36-31(35)29(32-25-11-5-2-6-12-25)26-13-7-10-24-16-19-37-30(24)26;/h1-13,16,19,23,28-29,32H,14-15,17-18,20-21H2;1H/q+1;/p-1/t23?,28-,29?,33?;/m0./s1
